US04401827
p-isobutylphenyl acetyl carnitine hydrochloride
5.5 g (0.028 moles) of carnitine hydrochloride are dissolved in 9 mls of CF3COOH, and to the solution an excess (20 mls) of p-isobutylphenyl acetyl chloride is added and the mixture is kept under stirring at 40°-45° C. for 4-5 hours. At the end of this period of time the mixture is partitioned with H2O--CHCl3, the organic phase is discarded and the aqueous phase is concentrated at reduced pressure at a bath temperature of about 50° C. A gelatinous raw material is obtained which is crystallized with isopropanol, the precipitate thus obtained is filtered, rapidly washed with ether because of its hygroscopicity, and dried under vacuum at a temperature not exceeding 50° C.; 6.8 g of a product are obtained (yield 65%) having the following characteristics:

reactant | carnitine hydrochloride | 0.028 moles, 5.5 g | Cl.OC(C[N+](C)(C)C)CC([O-])=O
reactant | p-isobutylphenyl acetyl chloride | 20 mls | C(C(C)C)C1=CC=C(C=C1)CC(=O)Cl | C12H15ClO
reactant | CF3COOH | 9 mls | C(=O)(C(F)(F)F)O | C2HF3O2
product | p-isobutylphenyl acetyl carnitine hydrochloride | 6.8 g, yield 65% | Cl.C(C(C)C)C1=CC=C(C=C1)C(C(O)(CC([O-])=O)C(C)=O)[N+](C)(C)C | InChI=1S/C19H29NO4.ClH/c1-13(2)11-15-7-9-16(10-8-15)18(20(4,5)6)19(24,14(3)21)12-17(22)23;/h7-10,13,18,24H,11-12H2,1-6H3;1H
